US05476851
1-carboethoxymethyl-7-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline (0.3 g) is added to a solution of KOH (0.22 g) in 15 ml of methanol. The mixture is stirred at room temperature for 11/2 hours then heated at 60° C. for 2 hours. The mixture is concentrated in vacuo and the residue is stirred in 20 ml of 0.5N aqueous HCI for 1/2 hour then the solid is filtered, washed with water and ether and air dried to obtain 1-carboxymethyl-7-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline (m.p. >260° C.).

reactant | 1-carboethoxymethyl-7-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline | 0.3 g | C(=O)(OCC)CN1N=CC=2C1=CC=1N=C(C=NC1C2)C2=CC(=C(C=C2)OC)F | C20H17FN4O3
reactant | KOH | 0.22 g | [OH-].[K+]
solvent | methanol | 15 ml | CO | CH4O
product | 1-carboxymethyl-7-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline | C(=O)(O)CN1N=CC=2C1=CC=1N=C(C=NC1C2)C2=CC(=C(C=C2)OC)F | C18H13FN4O3
